US08080552B2
1-(4-Chloro-phenyl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
A solution of 159 mg (1.033 mmol) 4-chlorophenyl isocyanate in 3 ml THF was given at 0° C. to a solution of 269 mg (1.033 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 5 ml THF within 10 min. After stirring overnight the reaction mixture was evaporated and the residue purified by chromatography on silica gel (ethyl acetate). The obtained material was recrystallized from 9 ml methanol to give 69 mg (16%) of the title compound.

reactant | 4-chlorophenyl isocyanate | 1.033 mmol, 159 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.033 mmol, 269 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-Chloro-phenyl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | 69 mg, 16% | ClC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO | C20H20ClN5O3
